US07067665B2
(ii) N-(1-Piperidin-4-yl-ethyl)-formamide
N-(1-Pyridin-4-yl-ethyl)-formamide (1.86 g, 12.38 mmol) was dissolved in 50 ml of acetic acid. After addition of Rh (5% on Al2O3, 307 mg) the mixture was hydrogenated with 10 bar hydrogen and 100° C. for 120 hours. The mixture was evaporated and lyophilised. The crude material was used without purification.

reactant | N-(1-Pyridin-4-yl-ethyl)-formamide | 12.38 mmol, 1.86 g | N1=CC=C(C=C1)C(C)NC=O | C8H10N2O
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-(1-Piperidin-4-yl-ethyl)-formamide | N1CCC(CC1)C(C)NC=O | C8H16N2O
